US04959364
Preparation of 1-(2-methyl-1-oxo-2-propenyl)pyrrolidine
Under an argon atmosphere, pyrrolidine (3.55 g, 0.05 mole) was dissolved in ethyl ether (50 ml). Triethylamine (5.06 g, 0.05 mmole) was added and the solution cooled to and maintained at 0° C. 2-Methylacryloyl chloride (5.22 g, 0.05 mole), dissolved in ethyl ether (50 ml) was added to the reaction and the solution stirred overnight. Water (50 ml) was added, the layers were separated and the aqueous layer extracted with ethyl ether. The extracts were concentrated and the resulting product dried (6.77 g). The structure was confirmed by NMR.

reactant | pyrrolidine | 0.05 mole, 3.55 g | N1CCCC1 | C4H9N
reactant | Triethylamine | 0.05 mmole, 5.06 g | C(C)N(CC)CC | C6H15N
reactant | 2-Methylacryloyl chloride | 0.05 mole, 5.22 g | CC(C(=O)Cl)=C | C4H5ClO
reactant | Water | 50 ml | O | H2O
solvent | ethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 50 ml | C(C)OCC | C4H10O
product | 1-(2-methyl-1-oxo-2-propenyl)pyrrolidine | CC(C(=O)N1CCCC1)=C | C8H13NO
